US06998412B2
Methyl 2-methyl2-[7-(2-phenyltiazole-4-yl)heptyloxy]-propionate
A mixture of 783 mg of thiobenzamide and 1.0 g methyl 2-(9-chloro-8-oxononyloxy)-2-methylpropionate were stirred for 2 hours at 120° C. The reaction solution was cooled and dissolved in ethyl acetate, washed by adding sodium hydrogencarbonate, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=9:1) to provide 963 mg of the objective compound as pale yellow oil.

reactant | thiobenzamide | 783 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | methyl 2-(9-chloro-8-oxononyloxy)-2-methylpropionate | 1.0 g | ClCC(CCCCCCCOC(C(=O)OC)(C)C)=O | C14H25ClO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-methyl2-[7-(2-phenyltiazole-4-yl)heptyloxy]-propionate | 963 mg | CC(C(=O)OC)(C)OCCCCCCCC=1N=C(SC1)C1=CC=CC=C1 | C21H29NO3S
